US09216173B2
To a flask were added tert-butyl [(1S,2R)-2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate (18.9 g, 43.3 mmol) and DMSO (380 mL). The resulting mixture was cooled in an ice bath. To the reaction mixture was added sodium hydroxide (6.0 M in water, 21.7 mL, 130 mmol) followed by the slow addition of hydrogen peroxide (35% solution in water, 7.96 mL, 91 mmol). The addition was performed at such a rate to maintain the internal reaction temperature between 25° C. and 30° C. After 20 minutes, the reaction mixture was slowly diluted with water (500 mL). After 30 minutes, the mixture was filtered, and the collected solids were washed with water and then dried overnight under a nitrogen bag. The collected solids were suspended in ethyl acetate (500 mL) and the resulting slurry was seeded with a previously processed batch of tert-butyl [(1S,2R)-2-({6-carbamoyl-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate. After 1 hour, the mixture was diluted with hexanes (150 mL), filtered, washed with hexanes, and dried in a nitrogen bag to afford tert-butyl [(1S,2R)-2-({6-carbamoyl-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate. MS ESI calc'd. for C24H35N6O3 [M+H]+ 455. found 455. 1H NMR (600 MHz, DMSO-d6) δ 11.68 (s, 1H), 8.51 (d, J=1.8 Hz, 1H), 7.81 (d, J=3.0 Hz, 1H), 7.55 (d, J=1.8 Hz, 1H), 7.21 (s, 1H), 6.54-6.50 (m, 2H), 6.40 (s, 1H), 6.05 (d, J=6.0 Hz, 1H), 3.81 (s, 1H), 3.54 (s, 1H), 2.34 (s, 3H), 2.17 (s, 3H), 1.82-1.76 (m, 1H), 1.72-1.64 (m, 1H), 1.60-1.42 (m, 4H), 1.36-1.28 (m, 1H), 1.27 (s, 9), 1.10-1.06 (m, 1H).

reactant | tert-butyl [(1S,2R)-2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate | 43.3 mmol, 18.9 g | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C24H32N6O2
reactant | DMSO | 380 mL | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 130 mmol, 6.0 M, 21.7 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 91 mmol, 7.96 mL | OO | H2O2
solvent | water | 500 mL | O | H2O
product | tert-butyl [(1S,2R)-2-({6-carbamoyl-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate | C(N)(=O)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C24H34N6O3
